US06569978B2
Carbazole was reacted with 1.5-fold excess of 4-vinylbenzyl chloride in benzene/water using NaOH as a base, and benzyltriethylammonium chloride as phase catalyst to afford 4-(9-carbazolyl)methylstyrene (CMS) at 80° C. for 5 h. The reaction mixture was extracted with chloroform and the organic layer washed with water, evaporated, and washed with hexane several times. The solid was dissolved in and recrystallized from diethyl ether at −20° C. Yield: 80%. The solid monomer was dried over P205 at 10-6 mmHg for 1 week and then dissolved in anhydrous THF and stored at −30° C. in glass ampoules under high vacuum. This reaction scheme is schematically shown in FIG. 2. The monomer is characterized by using 1H-NMR, 13C-NMR and FT-IR. Undesirable side-reaction of the monomer prepared is seen in FIG. 1.

reactant | Carbazole | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | 4-vinylbenzyl chloride | C(=C)C1=CC=C(CCl)C=C1 | C9H9Cl
reactant | NaOH | [OH-].[Na+]
solvent | benzene water | C1=CC=CC=C1.O
catalyst | benzyltriethylammonium chloride | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 4-(9-carbazolyl)methylstyrene | Yield: 80% | C1=CC=CC=2C3=CC=CC=C3N(C12)CC1=CC=C(C=C)C=C1 | C21H17N
